US07135572B2
N-(1-ethoxy-ethylidene) -4-methoxy-benzamide 462 mg (2.09 mmol) was dissolved in a mixed solvent of dichloromethane 20 ml and methanol 10 ml, and 4-hydrazinobenzenesulfonamide hydrochloride 515 mg (2.23 mmol) was added to the solution. Then, triethylamine 0.35 ml (2.51 mmol) was slowly added dropwise at room temperature for 10 minutes and stirred for 8 hours. After completing the reaction, water 20 ml was added to the reacting solution and extracted two times with dichloromethane, and then, the collected organic layer was washed with saturated brine. The organic layer was dried with anhydrous magnesium sulfate, filtered and concentrated under reduced pressure, and the resulting product was re-crystallized in acetone and hexane phase. As a result, 4-[5-(4-methoxy-phenyl)-3-mehtyl-[1,2,4]triazole-1-yl]-benzenesulfonamide (381 mg, yield: 53%) was obtained as a solid phase.

reactant | N-(1-ethoxy-ethylidene) -4-methoxy-benzamide | 2.09 mmol, 462 mg | C(C)OC(C)=NC(C1=CC=C(C=C1)OC)=O | C12H15NO3
reactant | 4-hydrazinobenzenesulfonamide hydrochloride | 2.23 mmol, 515 mg | Cl.N(N)C1=CC=C(C=C1)S(=O)(=O)N
reactant | triethylamine | 2.51 mmol, 0.35 ml | C(C)N(CC)CC | C6H15N
reactant | water | 20 ml | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | methanol | 10 ml | CO | CH4O
product | 4-[5-(4-methoxy-phenyl)-3-mehtyl-[1,2,4]triazole-1-yl]-benzenesulfonamide | 381 mg, yield: 53% | COC1=CC=C(C=C1)C1=NC(=NN1C1=CC=C(C=C1)S(=O)(=O)N)C | C16H16N4O3S
